US04595677
13.8 g of Z-Val-Tyr-OH [R. Schwyzer et al., Helv. Chim. acta. 41, 1273 (1958)] and 5.1 g of HOBt×H2O are dissolved in 100 ml of DMF and there is added thereto the above solution of H-Lys(Boc)-OMe in a small amount of DMF. The whole is cooled to 0°, 7.6 g of DCCI are added and the whole is stirred for 6 hours at 0° and for 10 hours at room temperature. The DCH which has separated out is filtered off and the filtrate is concentrated to dryness. Purification is carried out by triturating with diisopropyl ether and by dissolving and reprecipitating from trifluoroethanol/ethyl acetate/petroleum ether, yielding Z-Val-Tyr-Lys(Boc)-OMe; Rf (F)=0.39.

reactant | Z-Val-Tyr-OH | 13.8 g | N([C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C22H26N2O6
reactant | HOBt | 5.1 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H-Lys(Boc)-OMe | N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC | C12H24N2O4
reactant | DCCI | 7.6 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | Z-Val-Tyr-Lys(Boc)-OMe | N([C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C34H48N4O9
